*  Generated for: PrimeSim
*  Design library name: bg_vco_1
*  Design cell name: bg_delay_cell_prac1
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Sat Feb 26 12:05:08 2022

.global gnd!
********************************************************************************
* Library          : bg_vco_1
* Cell             : bg_delay_cell
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt bg_delay_cell vdda vssa vbb vbn vbp vc vin+ vin- vout+ vout-
xm13 vdda vin+ vout- vbb p105 w=0.3u l=0.09u nf=3 m=1
xm4 vdda vbp vout- vbb p105 w=0.1u l=0.03u nf=1 m=1
xm3 vdda net38 vout- vbb p105 w=0.1u l=0.03u nf=1 m=1
xm2 vdda net33 vout+ vbb p105 w=0.1u l=0.03u nf=1 m=1
xm14 vout+ vbp vdda vbb p105 w=0.1u l=0.03u nf=1 m=1
xm15 vout+ vin- vdda vbb p105 w=0.3u l=0.09u nf=3 m=1
xm12 vout- vin+ vssa vc n105 w=0.1u l=0.03u nf=1 m=1
xm11 vout- vin+ net48 vc n105 w=0.1u l=0.03u nf=1 m=1
xm10 net48 vbn vssa vc n105 w=0.1u l=0.03u nf=1 m=1
xm9 net38 vbp vout- vc n105 w=0.1u l=0.03u nf=1 m=1
xm8 net33 vbp vout+ vc n105 w=0.1u l=0.03u nf=1 m=1
xm7 vout+ vin- net48 vc n105 w=0.1u l=0.03u nf=1 m=1
xm6 vout+ vin- vssa vc n105 w=0.1u l=0.03u nf=1 m=1
.ends bg_delay_cell

********************************************************************************
* Library          : bg_vco_1
* Cell             : bg_delay_cell_prac1
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi2 net28 gnd! net25 net24 net23 net6 net29 net30 vout- vout+ bg_delay_cell
xi1 net28 gnd! net25 net24 net23 net6 net19 net20 net30 net29 bg_delay_cell
xi0 net28 gnd! net25 net24 net23 net6 vout+ vout- net20 net19 bg_delay_cell
v7 net6 gnd! dc=0.5
v6 net23 gnd! dc=3
v5 net24 gnd! dc=1
v4 net25 gnd! dc=2.1
v3 net28 gnd! dc=1.2








.tran '1p' '1n' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(vout+) v(vout-)

.temp 25

.ic  v(vout+)=0  v(vout-)=1

.option primesim_output=wdf


.option parhier = LOCAL






.end

