*  Generated for: PrimeSim
*  Design library name: bg_vco_1
*  Design cell name: bg_delay_cell_tb
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Sun Feb 27 12:14:50 2022

.global gnd!
********************************************************************************
* Library          : bg_vco_1
* Cell             : bg_delay_cell
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt bg_delay_cell vdda vssa vbb vbn vbp vc vin+ vin- vout+ vout-
xm13 vdda vin+ vout- vbb p105 w=0.3u l=0.09u nf=3 m=1
xm4 vdda vbp vout- vbb p105 w=0.1u l=0.03u nf=1 m=1
xm3 vdda net38 vout- vbb p105 w=0.1u l=0.03u nf=1 m=1
xm2 vdda net33 vout+ vbb p105 w=0.1u l=0.03u nf=1 m=1
xm14 vout+ vbp vdda vbb p105 w=0.1u l=0.03u nf=1 m=1
xm15 vout+ vin- vdda vbb p105 w=0.3u l=0.09u nf=3 m=1
xm12 vout- vin+ vssa vc n105 w=0.1u l=0.03u nf=1 m=1
xm11 vout- vin+ net48 vc n105 w=0.1u l=0.03u nf=1 m=1
xm10 net48 vbn vssa vc n105 w=0.1u l=0.03u nf=1 m=1
xm9 net38 vbp vout- vc n105 w=0.1u l=0.03u nf=1 m=1
xm8 net33 vbp vout+ vc n105 w=0.1u l=0.03u nf=1 m=1
xm7 vout+ vin- net48 vc n105 w=0.1u l=0.03u nf=1 m=1
xm6 vout+ vin- vssa vc n105 w=0.1u l=0.03u nf=1 m=1
.ends bg_delay_cell

********************************************************************************
* Library          : bg_vco_1
* Cell             : bg_delay_cell_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 net11 gnd! net13 net15 net17 net24 net19 net21 vout+ vout- bg_delay_cell
v7 net24 gnd! dc=1
v4 net17 gnd! dc=3
v3 net15 gnd! dc=1
v2 net13 gnd! dc=2.1
v1 net11 gnd! dc=1
v6 net21 gnd! dc=0 pulse ( 0 1 0 0.1u 0.1u 5u 10u )
v5 net19 gnd! dc=0 pulse ( 1 0 0 0.1u 0.1u 5u 10u )








.tran '1u' '20u' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(net19) v(net21) v(vout+) v(vout-)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end

